US04359570
Preparation of 1,5-Bis(o-carboxyanilino)anthraquinone
A mixture of 1,5-dichloroanthraquinone (12.0 g.), anthranilic acid (37.0 g.), magnesium oxide (3.2 g.), cupric oxide (0.8 g.), potassium hydroxide (15.0 g.), water (60 ml), and isobutyl alcohol (6 ml) was heated in an autoclave at 150° C. for 20 hrs. The reaction mixture was diluted with 500 ml water, acidified with sulfuric acid (15 ml), and then heated to 80°-85° C. with stirring. After cooling, the product was collected by filtration and washed with water. The dried product was purified by recrystallization from N-methyl-2-pyrrolidinone. This product is one of the most preferred comonomers.

reactant | 1,5-dichloroanthraquinone | 12.0 g | ClC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)Cl)=O | C14H6Cl2O2
reactant | anthranilic acid | 37.0 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | magnesium oxide | 3.2 g | [O-2].[Mg+2]
reactant | potassium hydroxide | 15.0 g | [OH-].[K+]
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 500 ml | O | H2O
solvent | water | 60 ml | O | H2O
solvent | isobutyl alcohol | 6 ml | C(C(C)C)O | C4H10O
product | 1,5-Bis(o-carboxyanilino)anthraquinone | C(=O)(O)C1=C(NC2=CC=CC=3C(C4=C(C=CC=C4C(C23)=O)NC2=C(C=CC=C2)C(=O)O)=O)C=CC=C1 | C28H18N2O6
